US07875645B2
e) 2-(2-Cyclopropyl-6-methyl-benzyl)-1H-imidazole
This compound was prepared using methodology described in Synlett 2004, 2803-2805. To a solution of 400 mg (1.87 mmol)) 2-(2-cyclopropyl-6-methyl-benzyl)-4,5-dihydro-1H-imidazole in 5 ml acetonitrile at −17° C. were added sequentially 0.50 ml (3.36 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) and a solution of 217 mg (0.93 mmol) trichloroisocyanuric acid (TCCA) in 2 ml acetonitrile. The reaction mixture was then stirred for 2 hours at room temperature, before being diluted with ethyl acetate and washed sequentially with water and with saturated brine. The phases were separated and the organic phase was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, ethyl acetate/heptane gradient) to afford 62 mg (16%) of the title compound as a white crystalline solid. MS (ISP): 213.4 ([M+H]+, 100%).

reactant | 2-(2-cyclopropyl-6-methyl-benzyl)-4,5-dihydro-1H-imidazole | C1(CC1)C1=C(CC=2NCCN2)C(=CC=C1)C | C14H18N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.36 mmol, 0.50 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | trichloroisocyanuric acid | 0.93 mmol, 217 mg | ClN1C(N(C(N(C1=O)Cl)=O)Cl)=O | C3Cl3N3O3
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Cyclopropyl-6-methyl-benzyl)-1H-imidazole | 62 mg, 16% | C1(CC1)C1=C(CC=2NC=CN2)C(=CC=C1)C | C14H16N2
